US08304557B2
(i) N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide
To a solution of 3-(1-cyano-1-methylethyl)-N-[3-({2-[(trifluoroacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]benzamide (400 mg, 0.788 mmol) in ethanol (4.0 mL) was added 1N aqueous sodium hydroxide solution (8.0 mL), and the mixture was stirred at 45° C. for 12 hr. Water (100 mL) was added to the reaction mixture, and the mixture was extracted with ethyl acetate (200 mL). The organic layer was washed with saturated brine (100 mL), and dried over anhydrous sodium sulfate. The insoluble material was removed by filtration, and the filtrate was concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (NH silica gel, ethyl acetate/methanol=100/0→80/20), and fractions containing the desired product were concentrated under reduced pressure to give the title compound (0.35 g, quantitative) as a colorless solid.

reactant | 3-(1-cyano-1-methylethyl)-N-[3-({2-[(trifluoroacetyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)phenyl]benzamide | 0.788 mmol, 400 mg | C(#N)C(C)(C)C=1C=C(C(=O)NC2=CC(=CC=C2)OC=2C=CC=3N(C2)C=C(N3)NC(C(F)(F)F)=O)C=CC1 | C26H20F3N5O3
reactant | sodium hydroxide | 1N, 8.0 mL | [OH-].[Na+]
reactant | Water | 100 mL | O | H2O
solvent | ethanol | 4.0 mL | C(C)O | C2H6O
product | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]phenyl}-3-(1-cyano-1-methylethyl)benzamide | 0.35 g | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(C)(C)C#N)=O)C1 | C24H21N5O2
